US09340538B2
4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(1-methyl-1H-imidazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1-methyl-1H-imidazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1 g, 2 mmol) (The compound was synthesized according to the procedure as described in WO2010069147) was reacted with morpholine-3-carboxylic acid (0.26 g, 2 mmol) according to the procedure as described in Example 28 to give the title compound as a yellowish solid (0.49 g, 45%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1-methyl-1H-imidazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 1 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1N(C=CN1)C | C18H17Br2FN4O2
reactant | morpholine-3-carboxylic acid | 2 mmol, 0.26 g | N1C(COCC1)C(=O)O | C5H9NO3
product | 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(1-methyl-1H-imidazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.49 g, 45% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1N(C=CN1)C)CN1C(COCC1)C(=O)O)C(=O)OCC | C23H25BrFN5O5
